US07273877B2
1-Allyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide (400 mg, 0.97 mmol) was dissolved in a mixture of t-butanol (60 mL) and water (60 mL) and to the resulting solution was added K3Fe(CN)6 (956 mg, 2.91 mmol), K2CO3 (400 mg, 2.91 mmol), OsO4 (0.62 mL of a 4% w/w solution in water) and DABCO (108 mg, 0.97 mmol). The reaction mixture was stirred at R.T. for 15 h., then poured into 1 M Na2S2O4 (200 mL) and extracted with EtOAc (3×100 mL). The combined EtOAc extracts were washed with water (100 mL), brine (100 mL) and dried (Na2SO4). The solvent was removed under reduced pressure and the resulting oil purified by column chromatography on silica gel (5% MeOH/CH2Cl2 as eluant) to give 1-(2,3-dihydroxypropyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (312 mg, 72%), m.p. (EtOAc) 210-213° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.44 (s, 1H), 8.26 (s, 1H), 7.87 (br s, 1H), 7.73 (dd, J=10.2, 1.9 Hz, 1H), 7.57 (dd, J=8.4, 0.9 Hz, 1H), 7.46 (br s, 1H), 7.29 (t, J=8.5 Hz, 1H), 5.56 (d, J=0.9 Hz, 1H), 4.96 (d, J=5.5 Hz, 1H), 4.70 (t, J=4.7 Hz, 1H), 4.14 (dd, J=13.1, 3.5 Hz, 1H), 3.79-3.70 (m, 1H), 3.51 (dd, J=13.1, 8.3 Hz, 1H), 3.40-3.30 (m, 2H). Anal. Calcd for C15H15FIN3O4: C, 40.3; H, 3.4; N, 9.4. Found: C, 40.7; H, 3.7; N, 9.5.

reactant | 1-Allyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 0.97 mmol, 400 mg | C(C=C)N1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)N | C15H13FIN3O2
reactant | K2CO3 | 2.91 mmol, 400 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DABCO | 0.97 mmol, 108 mg | C1CN2CCN1CC2 | C6H12N2
reactant | Na2S2O4 | 1 M, 200 mL | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | t-butanol | 60 mL | C(C)(C)(C)O | C4H10O
solvent | water | 60 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 1-(2,3-dihydroxypropyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 312 mg, 72% | OC(CN1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)N)CO | C15H15FIN3O4
